US07001897B2
(2) (1R,5S,6S)-2-{1-[4-(piperidin-4-ylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid
p-Nitrobenzyl (1R,5S,6S)-2-(1-{4-[1-(p-nitrobenzyloxycarbonyl)-piperidin-4-ylcarbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (340 mg, 0.414 mmol) (obtained as described in Example 56(1)) in a mixture of tetrahydrofuran (17 ml) and distilled water (17 ml) was subjected to catalytic hydrogenation in the presence of 10% palladium on charcoal (340 mg) at room temperature for 4.5 hours. After checking the completion of the reaction, the reaction mixture was filtered and to the filtrate were added ethyl acetate and distilled water. The mixture was shaken in a separatory funnel. The aqueous layer was separated and concentrated under reduced pressure. The residue was purified by chromatography on a Cosmosil column (eluant: distilled water→distilled water:acetonitrile (8:2)) and the eluate was lyophilized to afford the desired compound (1R,5S,6S)-2-{1-[4-(piperidin-4-ylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid (70 mg, yield 33%) as a white solid.

reactant | p-Nitrobenzyl (1R,5S,6S)-2-(1-{4-[1-(p-nitrobenzyloxycarbonyl)-piperidin-4-ylcarbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 0.414 mmol, 340 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)NC(=O)C=2N=C(SC2)N2CC(C2)SC=2[C@@H]([C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)C=C1 | C37H39N7O11S2
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
product | (1R,5S,6S)-2-{1-[4-(piperidin-4-ylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid | 70 mg, yield 33% | N1CCC(CC1)NC(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C | C22H29N5O5S2
